US06268444B1
Preparation of (1-(diphenylphosphino)-1H-indenyl)lithium, (41).
(1H-Inden-1-yl)diphenylphosphine (5.00 g, 16.65 mmol) was dissolved in a mixture of 60 mL of ether and 60 mL of hexane. n-BuLi (7.35 mL, 18.31 mmol) was added to the mixture within 10 minutes. After stirring overnight no precipitate appeared. Solvent was removed under reduced pressure leaving a waxy yellow residue. This residue was triturated with 120 mL of hexane for 15 minutes The hexane solution was decanted and the residue was dried under reduced pressure to give 4.45 g of off-white solid. Yield 87 percent.

reactant | (1H-Inden-1-yl)diphenylphosphine | 16.65 mmol, 5.00 g | C1(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1 | C21H17P
reactant | n-BuLi | 18.31 mmol, 7.35 mL | [Li]CCCC
solvent | ether | 60 mL | CCOCC | C4H10O
solvent | hexane | 60 mL | CCCCCC | C6H14
product | (1-(diphenylphosphino)-1H-indenyl)lithium | 4.45 g, Yield 87 percent | C1(=CC=CC=C1)P(C1(C=CC2=CC=CC=C12)[Li])C1=CC=CC=C1 | InChI=1S/C21H16P.Li/c1-3-10-18(11-4-1)22(19-12-5-2-6-13-19)21-16-15-17-9-7-8-14-20(17)21;/h1-16H;
